US03994974
In 50 ml. of ethanol there was dissolved 1.62 g. of 3-formylamino-4-benzyloxy-α-[N-benzyl-N-(1-methyl-2-p-tolylethyl)aminomethyl]benzyl alcohol prepared by the procedure in Reference Example 10 and after adding to the solution 0.3 g. of 10% palladium carbon, the catalytic reduction was conducted at normal temperature and pressure until 154 ml. of hydrogen was absorbed. The catalyst was filtered off and after adding to the remaining ethanol solution 8 ml. of water, and 186 mg. of fumaric acid, the solvent was removed from the resultant solution under a reduced pressure. The residue was dissolved in ethanol and benzene was added to the solution until the solution became slightly turbid. When the system was allowed to stand in a refrigerator, 550 mg. of a white crystalline material was formed. The crystals were recovered and recrystallized from ethanol-benzene to give 3-formylamino-4-hydroxy-α-[N-(1-methyl-2-p-tolylethyl)aminomethyl]benzyl alcohol . 1/2 fumarate . 1/2 hydrate melting at 132°-133° C. (decomposed).

reactant | 3-formylamino-4-benzyloxy-α-[N-benzyl-N-(1-methyl-2-p-tolylethyl)aminomethyl]benzyl alcohol | C(=O)NC=1C=C(C(CN(C(CC2=CC=C(C=C2)C)C)CC2=CC=CC=C2)O)C=CC1OCC1=CC=CC=C1 | C33H36N2O3
catalyst | palladium carbon | [C].[Pd]
solvent | ethanol | C(C)O | C2H6O
product | 3-formylamino-4-hydroxy-α-[N-(1-methyl-2-p-tolylethyl)aminomethyl]benzyl alcohol | C(=O)NC=1C=C(C(CNC(CC2=CC=C(C=C2)C)C)O)C=CC1O | C19H24N2O3
